US09102684B2
6-Bromo-7-methoxy-1H-indole-2,3-dione
A mixture of N-(3-Bromo-2-methoxy-phenyl)-2-hydroxyimino-acetamide (36 g, 0.132 mol), conc.H2SO4 (193 mL) is stirred at 80° C. for 1 hour. After reaction, poured the reaction mixture into ice water (2 L). The mixture is filtered and the solid is dried under vacuum to give the desired product.

reactant | N-(3-Bromo-2-methoxy-phenyl)-2-hydroxyimino-acetamide | 0.132 mol, 36 g | BrC=1C(=C(C=CC1)NC(C=NO)=O)OC | C9H9BrN2O3
reactant | H2SO4 | 193 mL | OS(=O)(=O)O | H2O4S
product | 6-Bromo-7-methoxy-1H-indole-2,3-dione | BrC1=CC=C2C(C(NC2=C1OC)=O)=O | C9H6BrNO3
